US05417885
To a mixture of 4.2 g of the 4-bromo-1-n-octyloxybenzene, 0.5 g of tetrakis(triphenylphosphine) palladium(0), 53 ml of benzene, and 53 ml of an aqueous sodium carbonate solution (2 mol/liter), 26 ml of ethanol containing 3.0 g of 2,3-difluorophenyl boronic acid synthesized by the same method as in [1] in Example 1 was added dropwise, and then the solution thus formed was heated to reflux for 5 hours. After the solution was cooled, it was added with 200 ml of an ether to extract the product, washed with water and dried. The solvent was distilled off under a reduced pressure. The residue thus obtained was purified by a silica gel column chromatography using a mixed solvents of n-hexane and diethyl ether (10:2) to obtain 2.8 g of 4-n-octyloxy-2', 3'-difluorobiphenyl.

reactant | 4-bromo-1-n-octyloxybenzene | 4.2 g | BrC1=CC=C(C=C1)OCCCCCCCC | C14H21BrO
reactant | benzene | 53 ml | C1=CC=CC=C1 | C6H6
reactant | sodium carbonate | 2 mol/liter, 53 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,3-difluorophenyl boronic acid | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.5 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ethanol | 26 ml, 3.0 g | C(C)O | C2H6O
product | 4-n-octyloxy-2', 3'-difluorobiphenyl | 2.8 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=C(C(=CC=C1)F)F | C20H24F2O
